US07572820B2
1-({5-[3,5-Bis(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-2-cyclopropyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 4 using 2-cyclopropyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile and 5-[3,5-bis(trifluoromethyl)phenyl]-3-(chloromethyl)-1,2,4-oxadiazole: 1H NMR (400 MHz, CDCl3) δ 8.50 (s, 2H), 8.09 (s, 1H), 7.67 (d, J=8.5 Hz, 1H), 7.56 (d, J=8.5 Hz, 1H), 6.50 (s, 1H), 5.68 (s, 2H), 2.14 (m, 1H), 1.16 (m, 2H), 0.93 (m, 2H); MS (ES) m/z 545 (M+1).

reactant | 2-cyclopropyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | C1(CC1)C=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N | C13H9F3N2
reactant | 5-[3,5-bis(trifluoromethyl)phenyl]-3-(chloromethyl)-1,2,4-oxadiazole | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NC(=NO1)CCl)(F)F | C11H5ClF6N2O
product | 1-({5-[3,5-Bis(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-2-cyclopropyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NC(=NO1)CN1C(=CC2=C(C(=CC=C12)C#N)C(F)(F)F)C1CC1)(F)F | C24H13F9N4O
